US06194425B1
Trifluoroacetic acid (5 mL) was added to a solution of 1,1-dimethylethyl N-[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]carbamate (5.7 g, 15 mmol) in dichloromethane (10 mL). The reaction mixture was stirred at ambient temperature for 1 hour. The reaction mixture was diluted with dichloromethane and then extracted with 10% hydrochloric acid. The hydrochloric acid extract was washed twice with dichloromethane and then it was made basic with ammonium hydroxide. The resulting precipitate was isolated by filtration and dried to provide 3.7 g of 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine as a white powder, m.p. 175-176° C. Analysis: Calculated for C15H20N6: % C, 63.36; % H, 7.09; % N, 29.55; Found: % C, 62.98; % H, 6.92; % N, 29.89. HRMS (EI) calcd for C15H20N6 (M+) 284.1749, found 284.1748.

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1,1-dimethylethyl N-[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]carbamate | 15 mmol, 5.7 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCNC(OC(C)(C)C)=O)CCCC | C20H28N6O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine | 3.7 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCN)CCCC | C15H20N6
